US08202873B2
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (0.200 g, 0.604 mmol) in acetonitrile (12 mL). Add potassium carbonate (0.334 g, 2.415 mmol), potassium iodide (0.005 g, 0.030 mmol), and 4-(2-bromo-ethyl)-3,5-dimethyl-1H-pyrazole (0.135 g, 0.664 mmol). Heat reaction at reflux for 14 hr. under nitrogen. Cool to room temperature and filter over celite. Concentrate filtrate in vacuo and purify residue by flash chromatography eluting with DCM:acetone 6:4 to afford the freebase as a mixture. Purify by reverse phase chromatography (43 g C-18, CH3CN: 1% aqueous TFA 5 to 95% over 20 min.) to afford a mixture. Purify by flash chromatography eluting with chloroform:methanol 0-10% to afford 4-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.150 mg). Dissolve the free base (0.150 g, 0.394 mmol) in acetonitrile (1 mL) and add aqueous 1N HCl (0.433 mL, 0.433 mmol). Stir for 1 h at room temperature. Remove organics and lyophilize to afford the title compound (0.144 g, 77% yield). MS (m/z)=381 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.604 mmol, 0.200 g | Cl.Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1
reactant | potassium carbonate | 2.415 mmol, 0.334 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.030 mmol, 0.005 g | [I-].[K+]
reactant | 4-(2-bromo-ethyl)-3,5-dimethyl-1H-pyrazole | 0.664 mmol, 0.135 g | BrCCC=1C(=NNC1C)C | C7H11BrN2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 4-[2-(3,5-dimethyl-1H-pyrazol-4-yl)-ethyl]-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.150 mg | CC1=NNC(=C1CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)C | C21H25FN6
